US06458796B1
1-Ethyl-heptyl Methanesulphonate
20 g (138.6 mmol) of 3-nonanol and 15.43 g of triethylamine are dissolved in 150 ml of dichloromethane and admixed dropwise with 17.47 g (152.5 mmol) of mesyl chloride. The mixture is stirred at room temperature for 4 hours. The organic phase is extracted twice with water and dried over sodium sulphate and the solvent is removed under reduced pressure. This gives 30.7 g (95%) of a yellow liquid.

reactant | 3-nonanol | 138.6 mmol, 20 g | CCC(CCCCCC)O | C9H20O
reactant | triethylamine | 15.43 g | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 152.5 mmol, 17.47 g | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1-Ethyl-heptyl Methanesulphonate | CS(=O)(=O)OC(CCCCCC)CC | C10H22O3S
